US08912188B2
To a solution of methyl 2-(2-fluoropyridin-4-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (125.0 mg, 0.35 mmol) in methanol (25 mL) and chloroform (10 mL) was added sodium hydroxide (56.0 mg, 1.40 mmol) in water (1 mL). The resulting solution was stirred overnight at room temperature and concentrated under vacuum. The residue was dissolved in water (20 mL) and adjusted to pH 6 with hydrochloric acid (1N). The product was precipitated and collected by filtration to afford 2-(2-fluoropyridin-4-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a yellow solid (50 mg, 42%).

reactant | methyl 2-(2-fluoropyridin-4-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.35 mmol, 125.0 mg | FC1=NC=CC(=C1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C19H19FN4O2
reactant | sodium hydroxide | 1.40 mmol, 56.0 mg | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 1 mL | O | H2O
product | 2-(2-fluoropyridin-4-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | 50 mg, 42% | FC1=NC=CC(=C1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)O | C18H17FN4O2
